### PR TITLE
feat: characterize BitVec.toInt in terms of BitVec.toNat

### PR DESCRIPTION
**Pull request by bollu**
This characterizes `toInt` in terms of `toNat`.

This PR is stacked on  https://github.com/leanprover/lean4/pull/3480 to write the theorems in a style that includes the width zero case.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -598,3 +600,27 @@ protected theorem lt_of_le_ne (x y : BitVec n) (h1 : x <= y) (h2 : ¬ x = y) : x
   let ⟨y, lt⟩ := y
   simp
   exact Nat.lt_of_le_of_ne
+
+@[simp] private theorem Nat.cast_two_pow {i : Nat} :(↑((2 : Nat)^i) : Int) = 2^i := by
+  induction i
+  case zero => rfl
+  case succ i ih =>
+    simp [Nat.pow_succ, Int.pow_succ, ih]
+
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:609]: This is a special case of `ofNat_pow` in `src/Init/Omega/Int.lean`.

Rather than another private lemma, could you replace both with an `Int.ofNat_pow` in `Init/Data/Int/Lemma.lean`?

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Done!

**Comment by bollu** [comment]
Done, I've made the requested changes. The PR is still in draft mode as it is stacked on top of https://github.com/leanprover/lean4/pull/3480.

**Comment by bollu** [comment]
awaiting-review

**Comment by semorrison** [comment]
Looks good. Please ping me once #3480 is in, and conflicts have been resolved here, and I will put this on the queue.

**Comment by bollu** [comment]
Superceded by https://github.com/leanprover/lean4/commit/23a202b6bec6348301c65a3260d52f561d3b55fb
